US08975406B2
A vigorously stirred mixture of 5-bromo-3-fluoro-2-hydroxypyridine (440 mg, 2.3 mmol), 1-(2-chloroethyl)-1H-pyrazole (330 mg, 2.5 mmol) and K2CO3 (380 mg, 2.77 mmol) in DMF (5 mL) was heated to 90° C. for 16 h. After cooling to room temperature the solvent was removed in vacuo and the crude partitioned between water and EtOAc. The aqueous was extracted with EtOAc (×3) and the combined organics dried (MgSO4) and concentrated in vacuo. Purification by column chromatography (gradient: 20%-100% EtOAc in pet. ether 40-60) yielded 5-bromo-3-fluoro-2-(2-pyrazol-1-yl-ethoxy)-pyridine as a clear oil.

reactant | 5-bromo-3-fluoro-2-hydroxypyridine | 2.3 mmol, 440 mg | BrC=1C=C(C(=NC1)O)F | C5H3BrFNO
reactant | 1-(2-chloroethyl)-1H-pyrazole | 2.5 mmol, 330 mg | ClCCN1N=CC=C1 | C5H7ClN2
reactant | K2CO3 | 2.77 mmol, 380 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-bromo-3-fluoro-2-(2-pyrazol-1-yl-ethoxy)-pyridine | BrC=1C=C(C(=NC1)OCCN1N=CC=C1)F | C10H9BrFN3O
